US05703075
Part B: 2-(4-Morpholinyl)-3-nitro-4H-1-benzopyran-4-one(500 mg) is dissolved in EtOAc (30 mL). Palladium on carbon (10%, 100 mg) is added under a nitrogen atmosphere. The mixture is fixed to a Parr hydrogenator at 30 psi for 4 hr, then filtered (Celite, 1 cm) and solvent removed in vacuo. The product is purified by flash chromatography (EtOAc) to give 3-Amino-2-(morpholinyl)-4H-1-benzopyran-4-one (419 mg, 94%). Mp 140°-1° C.; IR (mull) 2954, 2925, 2856, 1621, 1607, 1551, 1466, 1423, 1382, 1277, 1271, 1240, 1115, 952, 762 cm-1 ; 1H NMR (CDCl3, δ) 8.24 (dd, J=7.8, 2.0 Hz, 1H), 7.60 (ddd, J=6.8, 6.7, 1.8 Hz, 1 H) , 7.38 (br.d, J=7.8 Hz, 2 H), 3.91-3.76 (m, 4 H), 3.52-3.47 (m, 4 H), 3.43 (br.s, 2 H); UV (EtOH) λ max (ε) 212 (19,150), 233 (15,180), 255sh (9,900), 300 (3,000), 356 (12,100); Mass spectrum:ions at m/e (relative intensity) 262 (21), 246 (100), 201 (21), 188 (18), 187 (40), 148 (88), 121 (52), 114 (21), 70 (36), 42 (17); Anal. calc'd. for C13H14N2O3 : C, 63.40, H, 5.73, N, 11.38; found: C, 63.48; H, 5.84; N, 11.46.

reactant | 2-(4-Morpholinyl)-3-nitro-4H-1-benzopyran-4-one | 500 mg | N1(CCOCC1)C=1OC2=C(C(C1[N+](=O)[O-])=O)C=CC=C2 | C13H12N2O5
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium on carbon | 100 mg | [Pd] | Pd
product | 3-Amino-2-(morpholinyl)-4H-1-benzopyran-4-one | 419 mg, 94% | NC1=C(OC2=C(C1=O)C=CC=C2)N2CCOCC2 | C13H14N2O3
